US09108939B2
C: 2-(4-((4-(4-Aminophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
1,1,1,3,3,3-Hexafluoro-2-(4-((4-(4-nitrophenoxy)piperidin-1-yl)methyl)phenyl)propan-2-ol (4.01 mmol, 1.92 g) and palladium (10% on carbon, Degussa) (0.040 mmol, 0.085 g) were hydrogenated in methanol (20 mL) at 5 bar for 1 hour at room temperature. The reaction mixture was filtered and the filtrate concentrated under vacuum to afford the title compound. MS (ESI) m/z 449.1 [M+H]+

reactant | 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(4-nitrophenoxy)piperidin-1-yl)methyl)phenyl)propan-2-ol | 4.01 mmol, 1.92 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C21H20F6N2O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium | 0.040 mmol, 0.085 g | [Pd] | Pd
product | 2-(4-((4-(4-Aminophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | NC1=CC=C(OC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C21H22F6N2O2
